US09227978B2
2-Chloro-1-(2,2-difluorocyclopropyl)-4-methoxybenzene
The solution of 2-chloro-4-methoxy-1-vinylbenzene (290 mg, 1.72 mmol) in dry THF (4 mL) was degassed, and then TMS-CF3 and NaI were added. The mixture was stirred at 80° C. overnight. TLC (100% Hexane) showed the reaction as complete. The mixture was diluted with hexane (20 mL). The inorganic salt was removed by filtration. The filtrate was concentrate in vacuo. The residue was purified via Isolera One (Hexane=100%).

reactant | 2-chloro-4-methoxy-1-vinylbenzene | 1.72 mmol, 290 mg | ClC1=C(C=CC(=C1)OC)C=C | C9H9ClO
reactant | TMS-CF3 | [Si](C)(C)(C)C(F)(F)F | C4H9F3Si
reactant | NaI | [Na+].[I-]
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | hexane | 20 mL | CCCCCC | C6H14
product | 2-Chloro-1-(2,2-difluorocyclopropyl)-4-methoxybenzene | ClC1=C(C=CC(=C1)OC)C1C(C1)(F)F | C10H9ClF2O
